US09315458B2
C) methyl 3-chloro-2-hydroxy-4-(trifluoromethyl)benzoate
To a solution of methyl 3-chloro-2-[(methoxycarbonyl)oxy]-4-(trifluoromethyl)benzoate (6.00 g) in methanol (60.0 mL) was added potassium carbonate (8.00 g), and the mixture was stirred at 15° C. for 16 hr. The reaction mixture was filtered, the filtrate was neutralized with 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (3.50 g).

reactant | methyl 3-chloro-2-[(methoxycarbonyl)oxy]-4-(trifluoromethyl)benzoate | 6.00 g | ClC=1C(=C(C(=O)OC)C=CC1C(F)(F)F)OC(=O)OC | C11H8ClF3O5
reactant | potassium carbonate | 8.00 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 60.0 mL | CO | CH4O
product | methyl 3-chloro-2-hydroxy-4-(trifluoromethyl)benzoate | 3.50 g | ClC=1C(=C(C(=O)OC)C=CC1C(F)(F)F)O | C9H6ClF3O3
